US06632810B2
Synthesis of 1-methyl-4,5,6-trimethoxyindole-2-carboaldehyde:
2-Hydroxymethyl-1-methyl-4,5,6-trimethoxyindole (861 mg) was dissolved in benzene (50 mL), activated manganese dioxide (8.7 g) was added to the solution, and the mixture was stirred at room temperature for 2 hours. After the reaction mixture was filtered, and the filtrate was concentrated, the residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:2) to obtain the title compound.

reactant | 2-Hydroxymethyl-1-methyl-4,5,6-trimethoxyindole | 861 mg | OCC=1N(C2=CC(=C(C(=C2C1)OC)OC)OC)C | C13H17NO4
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
catalyst | manganese dioxide | 8.7 g | [O-2].[O-2].[Mn+4]
product | 1-methyl-4,5,6-trimethoxyindole-2-carboaldehyde | CN1C(=CC2=C(C(=C(C=C12)OC)OC)OC)C=O | C13H15NO4
